* source ZAS
C_C3         0 N12428  1n  
C_C2         0 N09334  100n  
Q_Q1         N10683 N10852 0 BC107A 
C_C4         0 N09334  100u  
C_C5         N12179 N10852  1n  
R_R4         N09334 N12179  1k  
R_Rb         N10683 N09604  910  
R_Ra         N09604 N09334  910  
R_R3         N10005 N09334  1k  
V_V3         N09334 0 5Vdc
D_D1         N10852 0 D1N3064 
C_C         0 N12226  1n  
R_R2         0 N10852  1k  
X_U1         0 N10005 OUTPUT N09334 N12428 N09604 N12226 N09334 555B
